US03985746
7-Cyanomethylthioacetamido-3-methoxy-3-cephem-4-carboxylic Acid Potassium Salt
7-Cyanomethylthioacetamido-3-methoxy-3-cephem-4-carboxylic acid (35 mg.) is dissolved in 1 ml. of methanol and 50 μ l of 2.5 M potassium 2-ethyl hexanoate is added. Addition of ether causes precipitation of a very hygroscopic solid. All solvent is removed in vacuo from the mixture and the residue is solidified by the addition of acetonitrile. The desired potassium salt is collected by filtration and dried yielding 19 mg; NMR (DMSO d6 δ) 3.43 (m, CH2),3.52 (s, NCCH2SCH2CO--) 3.76 (s,OCH3), 4.10 (d, J=4Hz, H6), 5.30 (q, J=4, 9.5 Hz, H7), 9.03 (d, J=9.5 Hz,NH); νmax (KBr) 3575, 3270, 2240, 1750, 1630, 1595, 1540 cm-1.

reactant | 7-Cyanomethylthioacetamido-3-methoxy-3-cephem-4-carboxylic acid | 35 mg | C(#N)CCC(=S)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O | C12H13N3O4S2
reactant | methanol | CO | CH4O
reactant | potassium 2-ethyl hexanoate | 2.5 M | C(CCCCC)(=O)OCC.[K]
reactant | KBr | [K+].[Br-]
solvent | ether | CCOCC | C4H10O
product | 7-Cyanomethylthioacetamido-3-methoxy-3-cephem-4-carboxylic Acid Potassium Salt | [K+].C(#N)CCC(=S)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)[O-])C1=O | InChI=1S/C12H13N3O4S2.K/c1-19-6-5-21-11-8(14-7(20)3-2-4-13)10(16)15(11)9(6)12(17)18;/h8,11H,2-3,5H2,1H3,(H,14,20)(H,17,18);/q;+1/p-1/t8?,11-;/m1./s1
